### PR TITLE
Continuous part of a square integrable martingale

### PR DESCRIPTION
**Pull request by EtienneC30**
Define the decomposition of a square integrable martingale as the sum of a continuous part and a purely discontinuous part. Show that this decomposition is unique and is preserved by stopping. Add some API for this purpose.

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/SquareIntegrable.lean [hunk 1]
```diff
@@ -275,142 +284,425 @@ lemma IsSquareIntegrable.eLpNorm_mono [CompleteSpace E] (hX : IsSquareIntegrable
...
+    h1.add h2
+
+@[to_fun limitProcess_fun_sub]
+lemma IsAESquareIntegrable.limitProcess_sub [Nonempty ι] [IsFiniteMeasure P]
+    (hX : IsAESquareIntegrable X 𝓕 P) (hY : IsAESquareIntegrable Y 𝓕 P) :
+    𝓕.limitProcess (X - Y) P =ᵐ[P] 𝓕.limitProcess X P - 𝓕.limitProcess Y P := by
+  apply 𝓕.limitProcess_ae_eq
+    (𝓕.stronglyMeasurable_limitProcess.sub 𝓕.stronglyMeasurable_limitProcess)
+  filter_upwards [hX.ae_tendsto_limitProcess, hY.ae_tendsto_limitProcess] with ω h1 h2 using
+    h1.sub h2
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/SquareIntegrable.lean]: Those two could be written for uniformly integrable martingales first and then used for IsAESquareIntegrable?

File: BrownianMotion/StochasticIntegral/SquareIntegrable.lean [hunk 2]
```diff
@@ -275,142 +284,425 @@ lemma IsSquareIntegrable.eLpNorm_mono [CompleteSpace E] (hX : IsSquareIntegrable
...
+  gcongr 1
+  apply lintegral_mono_ae
+  filter_upwards [hX.choose_spec.2] with ω h
+  simp [h]
+
+variable [OrderBot ι]
+
+lemma limitProcess_stoppedProcess (hX1 : Martingale X 𝓕 P) (hX2 : UniformIntegrable X 1 P)
+    (hX3 : ∀ ω, IsRightContinuous (X · ω)) (hτ : IsStoppingTime 𝓕 τ) :
+    𝓕.limitProcess (stoppedProcess X τ) P =ᵐ[P] 𝓕.stoppedValue' X τ P := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/SquareIntegrable.lean]: Can you move all the results about uniformly integrable martingales to another file?

File: BrownianMotion/StochasticIntegral/SquareIntegrable.lean [hunk 3]
```diff
@@ -574,12 +874,415 @@ noncomputable def SquareIntegrable.toL2Isom [OrderTopology ι] :
...
-instance SquareIntegrable.completeSpace [OrderTopology ι] :
-    CompleteSpace (SquareIntegrable ι E P 𝓕) :=
+instance [OrderTopology ι] : CompleteSpace (SquareIntegrable E P 𝓕) :=
   haveI : Fact (⨆ t, 𝓕 t ≤ mΩ) := ⟨iSup_le 𝓕.le⟩
-  toL2Isom.toIsometryEquiv.completeSpace
+  SquareIntegrable.toL2Isom.toIsometryEquiv.completeSpace
+
+end InnerProductSpace
+
+/-! ### Continuous square integrable martingales -/
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/SquareIntegrable.lean]: Please move all the things about continuous and discontinuous parts to a new file.
